US07902367B2
Step 15a) Methyl 3-[3-(tert-butoxycarbonylamino)piperidin-1-yl]benzoate
3-(tert-Butoxycarbonylamino)piperidine (200 mg, 1.00 mmol), 3-(methoxycarbonyl)phenylboric acid (360 mg, 2.00 mmol) and molecular sieves 4 Å (100 mg) were suspended in dichloromethane (10 mL). To this suspension, copper (II) acetate (182 mg, 1.00 mmol) and triethylamine (0.280 mL, 2.00 mmol) were added and the mixture was stirred at room temperature for 15 hours. Subsequently, the reaction mixture was filtered through Celite and a saturated aqueous sodium bicarbonate solution was added to the filtrate. This mixture was extracted with ethyl acetate and the extract washed with brine, followed by drying over magnesium sulfate and evaporation of the solvent. The resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=10:1->5:1) to give a colorless oil. This product was further purified by silica gel column chromatography (Chromatorex NH-DM2035 (Fuji Sylysia Chemical Co., Ltd.) hexane:ethyl acetate=10:1) to give 154 mg (46%) of the desired compound as a colorless powder.

reactant | 3-(tert-Butoxycarbonylamino)piperidine | 1.00 mmol, 200 mg | C(C)(C)(C)OC(=O)NC1CNCCC1 | C10H20N2O2
reactant | 3-(methoxycarbonyl)phenylboric acid | 2.00 mmol, 360 mg | COC(=O)C=1C=C(C=CC1)OB(O)O | C8H9BO5
reactant | triethylamine | 2.00 mmol, 0.280 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
catalyst | copper (II) acetate | 1.00 mmol, 182 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | Methyl 3-[3-(tert-butoxycarbonylamino)piperidin-1-yl]benzoate | 154 mg, 46% | C(C)(C)(C)OC(=O)NC1CN(CCC1)C=1C=C(C(=O)OC)C=CC1 | C18H26N2O4
